US08071592B2
1-(2-{(3R,4S)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Hydrochloride
1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride (100 mg, 0.2556 mmol) was stirred in 9:1 v:v chloroform:MeOH (5 mL) at rt under argon and triethylamine (125 uL, 3.5 eq.) was added. The mixture was stirred at rt for 10 mins., then 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde (for a synthesis see WO2004058144, Example 2(c) or WO03/087098, Example 19(d)) was added and the mixture was stirred at rt for 1 h before being treated with sodium triacetoxyborohydride (163 mg) added in one portion. The mixture was then stirred at rt over the weekend. Saturated aqueous sodium hydrogen cabonate (3 ml) was then added and the organic phase was diluted with DCM to bring the total volume to ca. 20 ml. The organic phase was separated using a hydrophobic frit and the aqueous phase was extracted with DCM (2×20 ml). The combined DCM extracts were evaporated under reduced pressure and purified by MDAP to give the free base of the title compound as an off-white foam (45 mg).

reactant | 1-{2-[(3R,4S)-4-amino-3-hydroxy-1-piperidinyl]ethyl}-7-(methyloxy)-1,5-naphthyridin-2(1H)-one dihydrochloride | 0.2556 mmol, 100 mg | Cl.Cl.N[C@@H]1[C@@H](CN(CC1)CCN1C(C=CC2=NC=C(C=C12)OC)=O)O
reactant | triethylamine | 125 uL, 3.5 eq. | C(C)N(CC)CC | C6H15N
reactant | 2,3-dihydro[1,4]dioxino[2,3-c]pyridine-7-carboxaldehyde | O1CCOC=2C=NC(=CC21)C=O | C8H7NO3
reactant | sodium triacetoxyborohydride | 163 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen cabonate | 3 ml | C(O)([O-])=O.[Na+]
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | 5 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-{(3R,4S)-4-[(2,3-dihydro[1,4]dioxino[2,3-c]pyridin-7-ylmethyl)amino]-3-hydroxy-1-piperidinyl}ethyl)-7-(methyloxy)-1,5-naphthyridin-2(1H)-one Hydrochloride | 45 mg | Cl.O1CCOC=2C=NC(=CC21)CN[C@@H]2[C@@H](CN(CC2)CCN2C(C=CC1=NC=C(C=C21)OC)=O)O | InChI=1S/C24H29N5O5.ClH/c1-32-17-11-20-18(27-13-17)2-3-24(31)29(20)7-6-28-5-4-19(21(30)15-28)26-12-16-10-22-23(14-25-16)34-9-8-33-22;/h2-3,10-11,13-14,19,21,26,30H,4-9,12,15H2,1H3;1H/t19-,21+;/m0./s1
